US07125896B2
b) 2-(2-[4-Fluorophenyl]ethoxy)bromobenzene
2-Bromophenol (3.46 g) was mixed with tetrahydrofuran (60 ml) and triphenylphosphine (6.3 g) was added along with 4-fluorophenethyl alcohol (4.2 g). The mixture was cooled in an ice bath before dropwise addition of diisopropyl azodicarboxylate (4.85 g). The mixture was allowed to warm to room temperature over 18 h. The mixture was evaporated and diethyl ether (100 ml) was added. Stirring was continued for 3 h, the mixture was filtered and the filtrate was evaporated. The product was purified by column chromatography eluting with ethyl acetate/hexane mixtures to give a yellow oil (4.47 g).

reactant | 2-Bromophenol | 3.46 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | triphenylphosphine | 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-fluorophenethyl alcohol | 4.2 g | FC1=CC=C(CCO)C=C1 | C8H9FO
reactant | diisopropyl azodicarboxylate | 4.85 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-(2-[4-Fluorophenyl]ethoxy)bromobenzene | 4.47 g | FC1=CC=C(C=C1)CCOC1=C(C=CC=C1)Br | C14H12BrFO
